US05021420
The experiment is carried out as in Example 18, starting with 5-chloronaphtho[1,8-cd]isothiazole 1,1-dioxide (1.2 g), sodium hydride (0.15 g) in an 80% dispersion in vaseline oil, 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine (1.4 g), obtained as in Example 18, and dimethylformamide (30 cc). The reaction mixture is heated for one hour at 70° C., cooled to a temperature of about 20° C. then concentrated to dryness at 20° C. under reduced pressure (0.5 mm Hg; 0.07 kPa). The residue is redissolved in dichloromethane (100 cc) and the solution is washed with distilled water (50 cc), dried over magnesium sulphate and concentrated to dryness at 20° C. under reduced pressure (20 mm Hg; 2.7 kPa). The residue is purified by chromatography on a silica column with a mixture of dichloromethane and ethyl acetate (90-10 vol) as eluant, and recrystallized from boiling acetonitrile (30 cc). 5-Chloro-2-[3-(4-phenyl-1,2,3,6tetrahydro-1-pyridyl)propyl]naphtho[1,8 -cd]isothiazole 1,1-dioxide (1 g) is obtained, m.p. 135° C.

reactant | 5-chloronaphtho[1,8-cd]isothiazole 1,1-dioxide | 1.2 g | ClC=1C=CC=2NS(C=3C2C1C=CC3)(=O)=O | C10H6ClNO2S
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 1.4 g | ClCCCN1CCC(=CC1)C1=CC=CC=C1 | C14H18ClN
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
product | 5-Chloro-2-[3-(4-phenyl-1,2,3,6tetrahydro-1-pyridyl)propyl]naphtho[1,8 -cd]isothiazole 1,1-dioxide | 1 g | ClC=1C=CC=2N(S(C=3C2C1C=CC3)(=O)=O)CCCN3CCC(=CC3)C3=CC=CC=C3 | C24H23ClN2O2S
